US07417060B2
The suspension of 4′-[2-[[(2R)-2-hydroxy-2-phenylethyl]amino]ethyl]-3-(isopropylthio)-4-biphenylcarboxylic acid hydrochloride in hydrogen chloride ethanol solution (5.5M, 1 ml) was stirred under reflux for 1.5 hours. The mixture solution was evaporated under reduced pressure and the resultant solid was washed with isopropyl ether to give ethyl 4′-[2-[[(2R)-2-hydroxy-2-phenylethyl]amino]ethyl]-3-(isopropylthio)-4-biphenylcarboxylate hydrochloride (37 mg).

reactant | 4′-[2-[[(2R)-2-hydroxy-2-phenylethyl]amino]ethyl]-3-(isopropylthio)-4-biphenylcarboxylic acid hydrochloride | Cl.O[C@@H](CNCCC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)O)SC(C)C)C1=CC=CC=C1
reactant | hydrogen chloride ethanol | 5.5M, 1 ml | C(C)O.Cl
product | ethyl 4′-[2-[[(2R)-2-hydroxy-2-phenylethyl]amino]ethyl]-3-(isopropylthio)-4-biphenylcarboxylate hydrochloride | 37 mg | Cl.O[C@@H](CNCCC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)OCC)SC(C)C)C1=CC=CC=C1 | InChI=1S/C28H33NO3S.ClH/c1-4-32-28(31)25-15-14-24(18-27(25)33-20(2)3)22-12-10-21(11-13-22)16-17-29-19-26(30)23-8-6-5-7-9-23;/h5-15,18,20,26,29-30H,4,16-17,19H2,1-3H3;1H/t26-;/m0./s1
